US08877961B2
2-{Benzyloxycarbonyl-[3-(1(R)-phenyl-ethylimino)-propyl]-amino}-acetic acid ethyl ester
2[(Benzyloxycarbonyl)-(3-oxo-propyl)-amino]-acetic acid ethyl ester (0.32 g; 1.09 mmol)) is dissolved in dichloromethane (10 ml). Molecular sieves (2 g; 3 Angström) are added. The reaction mixture is cooled to 0° C. and (R)-(+)-1-phenylethylamine (0.132 g; 1.09 mmol) is added and the mixture is stirred at 0° C. for 4 hours. The solids are filtered off and the solvent is removed under reduced pressure. 0.35 g of a light yellow oil (yield 93%) is obtained. The obtained imine is directly used in the next step.

reactant | 2[(Benzyloxycarbonyl)-(3-oxo-propyl)-amino]-acetic acid ethyl ester | 1.09 mmol, 0.32 g | C(C)OC(CN(CCC=O)C(=O)OCC1=CC=CC=C1)=O | C15H19NO5
reactant | (R)-(+)-1-phenylethylamine | 1.09 mmol, 0.132 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-{Benzyloxycarbonyl-[3-(1(R)-phenyl-ethylimino)-propyl]-amino}-acetic acid ethyl ester | 0.35 g, yield 93% | C(C)OC(CN(CCC=N[C@H](C)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C23H28N2O4
